US04664693
1-(Benzo[b]furan-5-yl)but-1-en3-one (1.3 g) and sodium diethyl malonate (1.1 equiv) were heated at reflux in absolute ethanol (40 ml) for 4 hr. The solvent was evaporated and the residue was thoroughly dried (100° C.; <0.1 mmHg). The residue was dissolved in anhydrous dimethylformamide (40 ml) heated to 60° C. under nitrogen. n-Butyric anhydride (1.1 equiv) was added and the mixture was heated and stirred at 100° C. for 20 min. The solvent was evaporated by reduced pressure distillation and the residue was boiled with an aqueous potassium hydroxide solution (3 equiv. 40 ml) for 4 hr. The hot solution was acidified by slow addition of dilute hydrochloric acid. The cooled mixture was extracted with ethyl acetate. After drying (MgSO4), the organic extract was evaporated and the residue was purified by column chromatography over silica gel with dichloromethane elution to give 3-hydroxy-5-(benzo[b]furan-5-yl)-2-butyrylcyclohex-2-en-1-one as a white solid, mp 71° C. Pmr spectrum (CDCl3 ; δ in ppm): 1.00 (3H, t); ca 1.71 (2H, m); 2.70-3.7 (7H, m); (6.74 (1H, m); 7.10-7.56 (3H, m); 7.62 (1H, d); 18.30 (1H, s).

reactant | 1-(Benzo[b]furan-5-yl)but-1-en3-one | 1.3 g | O1C2=C(C=C1)C=C(C=C2)C=CC(C)=O | C12H10O2
reactant | sodium diethyl malonate | 1.1 equiv | C(CC(=O)OCC)(=O)OCC.[Na]
reactant | n-Butyric anhydride | 1.1 equiv | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | potassium hydroxide | 40 ml, 3 equiv | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-hydroxy-5-(benzo[b]furan-5-yl)-2-butyrylcyclohex-2-en-1-one | OC1=C(C(CC(C1)C1=CC2=C(OC=C2)C=C1)=O)C(CCC)=O | C18H18O4
